US05177095
3-Butyl-4-[[4-(1-carboxy-1-phenylmethoxy)phenyl]methyl]-5-(4-chlorobenzylsulfinyl) -4H-1,2,4-triazole
To a stirred solution of 60 mg (0.11 mmol) of 3-butyl-4-[[4-[1-carboxy-1-phenylmethoxy]phenyl]methyl]-5-(4-chlorobenzylthio) -4H-1,2,4-triazole from (Example 5) in 0.75 ml of glacial acetic acid was added gradually 0.75 ml of 30% hydrogen peroxide in H2O. The solution became turbid during the addition but largely clarified within a few minutes. After adding an additional 4 drops of acetic acid, the mixture was stirred at room temperature in a stoppered flask for 16 hours. It was then diluted with 50 ml of EtOAc and shaken with 50 ml of dilute HCl (pH 2.5). The aqueous phase was extracted with an additional 3 portions of EtOAc. The combined EtOAc fractions were washed once with dilute HCl (pH 2), then dried (MgSO4), filtered, and concentrated. Trituration of the residue with Et2O gave a gum. Upon decantation of the Et2O and drying in vacuo, 31 mg (51%) of the title compound was obtained as a stiff foam, mp 76°-78° C. dec.

reactant | 3-butyl-4-[[4-[1-carboxy-1-phenylmethoxy]phenyl]methyl]-5-(4-chlorobenzylthio) -4H-1,2,4-triazole | 0.11 mmol, 60 mg | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)SCC1=CC=C(C=C1)Cl | C28H28ClN3O3S
reactant | hydrogen peroxide | 0.75 ml | OO | H2O2
reactant | HCl | 50 ml, pH 2.5 | Cl | ClH
solvent | acetic acid | 0.75 ml | C(C)(=O)O | C2H4O2
solvent | H2O | O | H2O
catalyst | acetic acid | 4 drops | C(C)(=O)O | C2H4O2
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | 3-Butyl-4-[[4-(1-carboxy-1-phenylmethoxy)phenyl]methyl]-5-(4-chlorobenzylsulfinyl) -4H-1,2,4-triazole | 31 mg, 51% | C(CCC)C1=NN=C(N1CC1=CC=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)S(=O)CC1=CC=C(C=C1)Cl | C28H28ClN3O4S
